US06495217B2
Methyl 5-(4-methoxyphenyl)-2,2-dimethyl-1,3-dioxolane 4-carboxylate (2.0 g, 7.5 mmol) and aqueous sodium hydroxide solution (0.36 g in 20 ml) and industrial methylated spirits (20 ml) were stirred at 80° C. for 3 hours. The mixture was cooled to room temperature, neutralised with dilute hydrochloric acid and concentrated in vacuo. The product was extracted with DCM, dried over NaSO4 and evaporated to dryness to leave (5R,4S)-5-(4-methoxyphenyl)2,2-dimethyl-1,3-dioxolane-4-carboxylic acid as a colourless oil (1.7 g, 90%). 1H-NMR was in accordance with expected signals. I.R. showed expected peaks.

reactant | Methyl 5-(4-methoxyphenyl)-2,2-dimethyl-1,3-dioxolane 4-carboxylate | 7.5 mmol, 2.0 g | COC1=CC=C(C=C1)C1C(OC(O1)(C)C)C(=O)OC | C14H18O5
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 20 ml, 0.36 g | [OH-].[Na+]
product | (5R,4S)-5-(4-methoxyphenyl)2,2-dimethyl-1,3-dioxolane-4-carboxylic acid | 1.7 g, 90% | COC1=CC=C(C=C1)[C@@H]1[C@H](OC(O1)(C)C)C(=O)O | C13H16O5
